US04692448
1,1'-(Dithiodi-2,1-ethanediyl)bis[4-(4-cyanobenzyl)piperazine]
A mixture of 4-cyanobenzylpiperazine (4.0 g), bis(2-chloroethyl) disulfide (1.9 g), potassium hydroxide (5.0 g), and dimethylsulfoxide (50 ml) is heated at 80° C. until the solution turns pink in color. The heat is then removed and the reaction mixture allowed to stir overnight at room temperature. The solution is diluted with water, and the product extracted with ether, dried, and concentrated to give 4.4 g of an oil, which is purified on a silica gel column (methylene chloride: methanol, 98:2). The resulting light brown oil is dissolved in ether and the salt precipitated with ethereal hydrochloric acid to give, after recrystallization from aqueous ethanol, 1,1'-(dithiodi-2,1-ethanediyl)bis[4-(4-cyanobenzyl)piperazine] tetrahydrochloride as a white crystalline solid, m.p. 272°-275° C.

reactant | 4-cyanobenzylpiperazine | 4.0 g | C(#N)C1=CC=C(CN2CCNCC2)C=C1 | C12H15N3
reactant | bis(2-chloroethyl) disulfide | 1.9 g | ClCCSSCCCl | C4H8Cl2S2
reactant | potassium hydroxide | 5.0 g | [OH-].[K+]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1,1'-(Dithiodi-2,1-ethanediyl)bis[4-(4-cyanobenzyl)piperazine] | 4.4 g | C(CSSCCN1CCN(CC1)CC1=CC=C(C=C1)C#N)N1CCN(CC1)CC1=CC=C(C=C1)C#N | C28H36N6S2
